*$
* INA154
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA154
* Date: 07FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS104
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Updated PSpice symbol.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* INA154 SUB-CIRCUIT
* CONNECTIONS: NON-INVERTING INPUT
*			   |  INVERTING INPUT
*			   |  |  POSITIVE POWER SUPPLY
*			   |  |  |  NEGATIVE POWER SUPPLY
*			   |  |  |  |  OUTPUT
*			   |  |  |  |  |  REFERENCE
*			   |  |  |  |  |  |  SENSE
*			   |  |  |  |  |  |  |
*              1  2  3  4  5  8 9
*****************************************************************************
.SUBCKT INA154 1 2 3 4 5 8 9
*****************************************************************************
C1CM 4 14 0.05PF 
CDIF 14 13 1.8PF 
R1 2 13 25K 
R2 13 9 24.9985K 
R3 1 14 25K 
R4 14 8 25K 
X1 14 13 3 4 5 A3_154E_INA154
.ENDS INA154
*****************************************************************************
.SUBCKT A3_154E_INA154 1 2 3 4 5
*****************************************************************************
.MODEL DX D (IS=800.0E-18)
.MODEL QX NPN (IS=800.0E-18 BF=336)
C1 11 12 7.151E-12
C2 6 7 12.00E-12
DC 5 53 DX
DE 54 5 DX
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
DQ1 20 21 DX 
DQ2 22 20 DX 
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 122.8E6 -120E6 120E6 120E6 -120E6
FQ1 3 0 POLY(1) VQ1 2.1E-3 1
FQ2 0 4 POLY(1) VQ2 2.1E-3 -1
FQ3 0 20 POLY(1) VLIM 0 1
GA 6 0 11 12 271.4E-6
GCM 0 6 10 99 271.4E-12
HLIM 90 0 VLIM 1K
IEE 10 4 DC 168.5E-6
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 3 11 3.684E3
RC2 3 12 3.684E3
RE1 13 10 3.366E3
RE2 14 10 3.366E3
REE 10 99 1.187E6
RO1 8 5 15
RO2 7 99 15
RQ 3 4 2.8E5 
VB 9 0 DC 0
VC 3 53 DC 2.500
VE 54 4 DC 2.200
VLIM 7 8 DC 0
VLN 0 92 DC 70
VLP 91 0 DC 70
VQ1 21 0 0
VQ2 22 0 0
.ENDS A3_154E_INA154
*
